US07691877B2
[2-Amino-6-(4-methoxymethyl-oxazol-2-yl)-3-nitro-pyridin-4-yl]-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 70, using 4-methoxymethyl-oxazole (110 mg), (2-amino-6-bromo-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester (200 mg) and palladium bis(triphenylphosphine)dichloride (68 mg), giving the product (107 mg) as a yellow gum.

reactant | 4-methoxymethyl-oxazole | 110 mg | COCC=1N=COC1 | C5H7NO2
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 200 mg | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H16BrN5O4
catalyst | palladium bis(triphenylphosphine)dichloride | 68 mg | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
product | [2-Amino-6-(4-methoxymethyl-oxazol-2-yl)-3-nitro-pyridin-4-yl]-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)C=1OC=C(N1)COC)N)[N+](=O)[O-])=O | C20H22N6O6
